### PR TITLE
feat: add intersection for `ExtDHashMap`/`ExtHashMap`/`ExtHashSet`

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR provides intersection operation for `ExtDHashMap`/`ExtHashMap`/`ExtHashSet` and proves several lemmas about it.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 4c972ba0d63ddacef6b032b8e3e014cd62fc16f6 --onto 5a4226f2bdcc6299df76285b1d30f238546c09fe`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-18 14:52:55)

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 1]
```diff
@@ -2178,6 +2178,17 @@ theorem not_mem_inter_of_not_mem_right [EquivBEq α] [LawfulHashable α] {k : α
   rw [← contains_eq_false_iff_not_mem] at not_mem ⊢
   exact @Raw₀.contains_inter_eq_false_of_contains_eq_false_right _ _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ _ m₁.2 m₂.2 k not_mem
 
+/- Equiv -/
+theorem inter_equiv_congr_left {m₃ : DHashMap α β} [EquivBEq α] [LawfulHashable α]
```
Comment (Rob23oba) [inline src/Std/Data/DHashMap/Lemmas.lean]: I forgot to mention this for the `union` one, but the convention so far was to put the congruence lemmas in the `Equiv` namespace as `Equiv.inter (h₁ : m₁ ~m m₂) (m₂ : m₃ ~m m₄) : (m₁ ∩ m₃) ~m (m₂ ∩ m₄)`.

Comment (Rob23oba) [reply src/Std/Data/DHashMap/Lemmas.lean]: Well, to be precise, I'd just prove one `inter_equiv_congr` lemma in Raw0 and then move that one up all the levels to `Std.Thing.Equiv.inter` and not bother providing any additional `inter_equiv_congr_left` / `Equiv.inter_left` / etc. lemmas and not adding additional theorems in the `ExtDHashMap` file.

Comment (TwoFX) [reply src/Std/Data/DHashMap/Lemmas.lean]: The `Equiv.inter_left` and `Equiv.inter_right` lemmas are useful and they follow the established convention. It will also be good to have `(h₁ : m₁ ~m m₂) (h₂ : m₃ ~m m₄) : (m₁ ∩ m₃) ~m (m₂ ∩ m₄)`, but let's call it `Equiv.inter_congr`.

File: src/Std/Data/ExtDHashMap/Lemmas.lean [hunk 2]
```diff
@@ -2418,6 +2418,341 @@ theorem get!_union_of_not_mem_right [EquivBEq α] [LawfulHashable α] [Inhabited
...
+@[simp]
+theorem get_inter [EquivBEq α] [LawfulHashable α]
+    {k : α} {h_mem : k ∈ m₁ ∩ m₂} :
+    Const.get (m₁.inter m₂) k h_mem =
+    Const.get m₁ k (mem_inter_iff.1 h_mem).1 := by
+    induction m₁
+    case mk a =>
+      induction m₂
+      case mk b =>
+        apply DHashMap.Const.get_inter
```
Comment (TwoFX) [inline src/Std/Data/ExtDHashMap/Lemmas.lean]:
```suggestion
  induction m₁
  case mk a =>
    induction m₂
    case mk b =>
      apply DHashMap.Const.get_inter
```

**Review by TwoFX — APPROVED** [review]
